US07129246B2
(i) N(1-Adamantylmethyl)-2-bromo-5-chloroisonicotinamide
To a stirred solution of di-isopropylamine (2.1 ml) in anhydrous tetrahydrofuran (15 ml) at is −5° C. was added, dropwise a solution of n-butyl lithium in hexane (2.5 molar, 4.8 ml) and the resulting solution was stirred for 30 minutes and was then cooled to −70° C. To the cooled solution was added a solution of 2-bromo-5-chloropyridine (2.39 g) in anhydrous tetrahydrofuran (10 ml) maintaining the internal temperature of the reaction below −65° C. The reaction was maintained at −70° C. for 15 minutes and then a solution of 1-adamantylmethyl isocyanate (1.91 g) in anhydrous tetrahydrofuran (5 ml) was dropwise added (care exotherm). The mixture was stirred for 10 minutes and was then poured into a solution of 1M aqueous hydrochloric acid solution (50 ml) and the mixture extracted into ethyl acetate (3×25 ml). The combined extracts were dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by chromatography on silica gel eluting with ethyl acetate:iso-hexane (1:9 to 1:4 to 1:1) to afford the sub-titled compound (2.70 g) as a white solid.

reactant | di-isopropylamine | 2.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-bromo-5-chloropyridine | 2.39 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | 1-adamantylmethyl isocyanate | 1.91 g | C12(CC3CC(CC(C1)C3)C2)CN=C=O | C12H17NO
reactant | hydrochloric acid | 1M, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.5 molar, 4.8 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N(1-Adamantylmethyl)-2-bromo-5-chloroisonicotinamide | 2.70 g | C12(CC3CC(CC(C1)C3)C2)CNC(C2=CC(=NC=C2Cl)Br)=O | C17H20BrClN2O
